US07410943B2
1b) Synthesis of methanesulfonic acid 3-tritylsulfanyl-propyl ester
Mesyl chloride (6 μl, 0.075 mmol) was added to a solution of 3-tritylsulfanyl-propan-1-ol (5 mg, 0.015 mmol) and triethyl amine (32 μl, 0.23 mmol) in THF (1 ml). After 30 minutes THF was evaporated under reduced pressure and the crude product dissolved in DCM, washed with a saturated solution of sodium hydrogencarbonate in water, a saturated solution of sodium chloride and dried with is MgSO4. A yield of 10 mg was obtained after evaporation under reduced pressure (analytical HPLC: column Luna C18, 00B-4251-E0: solvents: A=water/0.1% TFA and B=CH3CN/0.1% TFA; gradient 40-80% B over 10 min; flow 1.0 ml /minute; retention time 7.12 minutes detected at 214 and 254 nm). Structure verified by NMR.

reactant | Mesyl chloride | 0.075 mmol, 6 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 3-tritylsulfanyl-propan-1-ol | 0.015 mmol, 5 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCCO | C22H22OS
reactant | triethyl amine | 0.23 mmol, 32 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | methanesulfonic acid 3-tritylsulfanyl-propyl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCCOS(=O)(=O)C | C23H24O3S2
